US06914160B1
Methyl-2-keto-3-methyl-4-dimethylaminobut-3-enoate
Methyl-2-ketobutyrate (5 g, 43 mmol) was added at ambient temperature to dimethylformamide dimethyl acetal (5.13 g, 43 mmol, 5.72 ml). The solution was stirred overnight under nitrogen and then the volatile components were removed in vacuo at 40° C. The yellow residue was used without further purification.

reactant | Methyl-2-ketobutyrate | 43 mmol, 5 g | COC(C(CC)=O)=O | C5H8O3
reactant | dimethylformamide dimethyl acetal | 43 mmol, 5.72 ml, 5.13 g | COC(N(C)C)OC | C5H13NO2
product | Methyl-2-keto-3-methyl-4-dimethylaminobut-3-enoate | COC(C(C(=CN(C)C)C)=O)=O | C8H13NO3
